### PR TITLE
[Merged by Bors] - chore(Logic): reduce use of autoImplicit

### PR DESCRIPTION
**Pull request by grunweg**
In one case, replacing this naively errored, so I just merged the single declaration using it.

Delete two unused variables in Logic/Basic.

---

Commits can be reviewed individually.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/Defs.lean [hunk 1]
```diff
@@ -320,7 +317,7 @@ theorem Perm.coe_subsingleton {α : Type*} [Subsingleton α] (e : Perm α) : (e
 theorem apply_eq_iff_eq (f : α ≃ β) {x y : α} : f x = f y ↔ x = y := EquivLike.apply_eq_iff_eq f
 #align equiv.apply_eq_iff_eq Equiv.apply_eq_iff_eq
 
-theorem apply_eq_iff_eq_symm_apply (f : α ≃ β) : f x = y ↔ x = f.symm y := by
+theorem apply_eq_iff_eq_symm_apply {x : α} {y : β}(f : α ≃ β) : f x = y ↔ x = f.symm y := by
```
Comment (semorrison) [inline Mathlib/Logic/Equiv/Defs.lean:320]:
```suggestion
theorem apply_eq_iff_eq_symm_apply {x : α} {y : β} (f : α ≃ β) : f x = y ↔ x = f.symm y := by
```

File: Mathlib/Logic/Function/Basic.lean [hunk 2]
```diff
@@ -807,12 +806,15 @@ end Extend
 
 namespace FactorsThrough
 
+set_option autoImplicit true in
 protected theorem rfl {f : α → β} : FactorsThrough f f := fun _ _ ↦ id
 
-theorem comp_left {f : α → β} {g : α → γ} (h : FactorsThrough g f) (g' : γ → δ) :
+set_option autoImplicit true in
+theorem comp_left {f : α → β} {g : α → γ}  (h : FactorsThrough g f) (g' : γ → δ) :
```
Comment (semorrison) [inline Mathlib/Logic/Function/Basic.lean:813]:
```suggestion
theorem comp_left {f : α → β} {g : α → γ} (h : FactorsThrough g f) (g' : γ → δ) :
```

**Comment by semorrison** [comment]
I'm a bit skeptical of replacing `set_option autoImplicit` with `set_option ... in ...`, but I guess it is an improvement.

bors d+

**Comment by grunweg** [comment]
@semorrison Thanks for the review; I have fixed your nits.
You raise a fair point: hence, I have gone ahead and also removed the `set_option autoImplicit true`s this PR introduces.
I'll let it sit for a day in case you want to take a look again, and merge if there are no comments.

**Comment by grunweg** [comment]
Since I have not further comments, let me
bors r+
